US06235731B1
2) Synthesis of (E)-1-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)propen-1-one
A solution of 0.675 g (1.756 mM) of (E)-1-(piperidin-4-yl)-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)propen-1-one dihydrochloride, 0.52 g (2.63 mM) of 1-bromo-3-phenylpropane, and 0.86 ml (6.15 mM) of triethylamine in 30 ml of acetonitrile, and the mixture was refluxed for 1 day. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate˜ethyl acetate/methanol: 4/1) to provide the title compound.

reactant | (E)-1-(piperidin-4-yl)-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)propen-1-one dihydrochloride | 1.756 mM, 0.675 g | Cl.Cl.N1CCC(CC1)C(\C=C\C1=CC2=CN=C3C=CC=C(S1)N32)=O
reactant | 1-bromo-3-phenylpropane | 2.63 mM, 0.52 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | triethylamine | 6.15 mM, 0.86 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (E)-1-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)propen-1-one | C1(=CC=CC=C1)CCCN1CCC(CC1)C(\C=C\C1=CC2=CN=C3C=CC=C(S1)N32)=O | C26H27N3OS
